US04151302
1 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester, or the corresponding free hydroxy acid or 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid, is heated with 2 ml. of 67% hydriodic acid and 4 ml. of acetic acid at 150° for 1 hour and the mixture is poured onto ice and decolorized with NaHSO3 solution. After the customary work up, 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°, is obtained.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
reactant | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H12F2O2
reactant | hydriodic acid | I | HI
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
